### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/HomotopyCat): SSet.hoFunctor

### PR DESCRIPTION
**Pull request by digama0**
This defines `SSet.hoFunctor`, which constructs a category from a simplicial set.

Co-Authored-By: Emily Riehl <eriehl@jhu.edu>, Pietro Monticone <38562595+pitmonticone@users.noreply.github.com>, and Joël Riou <https://github.com/joelriou>

---

- [x] depends on: #16779
- [x] depends on: #16780
- [x] depends on: #16781
* Prerequisite for #16784.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
I would suggest moving the file `AlgebraicTopology.HomotopyCat` to `AlgebraicTopology.SimplicialSet.HomotopyCat` (and then `SimplicalSet` should become `SimplicialSet.Basic`).

**Comment by joelriou** [comment]
Note: Moving files to `SimplicialSet.*` should be done in a separate PR doing only that.

**Comment by emilyriehl** [comment]
> Note: Moving files to `SimplicialSet.*` should be done in a separate PR doing only that.

See PR #17620.

File: Mathlib/CategoryTheory/Quotient.lean [hunk 1]
```diff
@@ -67,6 +67,30 @@ theorem comp_right {a b c : C} (g : b ⟶ c) :
     ∀ (f₁ f₂ : a ⟶ b) (_ : CompClosure r f₁ f₂), CompClosure r (f₁ ≫ g) (f₂ ≫ g)
   | _, _, ⟨x, m₁, m₂, y, h⟩ => by simpa using CompClosure.intro x m₁ m₂ (y ≫ g) h
 
+theorem CompClosure.congruence :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:70]: It would be nice to prove this after `functor r` is defined, because it seems this could then be deduced from the fact that `Relation.EqvGen (@CompClosure C _ r X Y)` is, by the basic properties of quotients, the equivalence relation on `X ⟶ Y` such that `f` and `g` are related iff `(functor r).map f = (functor r).map g`. In general, we could also introduce `Functor.homRel` which sends a functor `F` from `C` to `D` to the relation on morphisms on `C` defined by `F.map f = F.map G`, and then we can prove `Congruence F.homRel` (all the fields can be obtainted mostly `by aesop`). Then, up to a `rw`, this result would be the particular case `Congruence (functor r).homRel`.

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Quotient.lean]: @joelriou I believe I've now implemented all of your suggestions. See

+ Functor.homRel
+ Functor.homRelCongruence
+ functorHomRel_eq_compClosureEqvGen (better name?)
+ compClosure.congruence (I thought that perhaps this should have been lowercase, but maybe that is a mistake)

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 2]
```diff
@@ -0,0 +1,469 @@
...
+
+local notation3:1000 (priority := high) X " _[" n "]" =>
+    (X : CategoryTheory.SimplicialObject _).obj (Opposite.op (SimplexCategory.mk n))
+
+/-- A simplicial set `S` has an underlying refl quiver with `S _[0]` as its underlying type.-/
+def SSet.OneTruncation (S : SSet) := S _[0]
+
+/-- The source vertex of `f : S _[1]` for use in defining the underlying refl quiver.-/
+def SSet.OneTruncation.src {S : SSet} (f : S _[1]) : OneTruncation S :=
+  S.map (SimplexCategory.δ (n := 0) 1).op f
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:60]:
```suggestion
  S.δ 1 f
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 3]
```diff
@@ -0,0 +1,469 @@
...
+
+/-- The target vertex of `f : S _[1]` for use in defining the underlying refl quiver.-/
+def SSet.OneTruncation.tgt {S : SSet} (f : S _[1]) : OneTruncation S :=
+  S.map (SimplexCategory.δ (n := 0) 0).op f
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:64]:
```suggestion
  S.δ 0 f
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 4]
```diff
@@ -0,0 +1,469 @@
...
+/-- A simplicial set `S` has an underlying refl quiver `SSet.OneTruncation S`.-/
+instance (S : SSet) : ReflQuiver (SSet.OneTruncation S) where
+  Hom X Y := SSet.OneTruncation.Hom X Y
+  id X := by
+    refine ⟨S.map (SimplexCategory.σ (n := 0) 0).op X, ?_, ?_⟩ <;>
+    · change (S.map _ ≫ S.map _) X = X
+      rw [← map_comp, (_ : _ ≫ _ = 𝟙 _)]; simp
+      show ({..} : Opposite _) = _; congr; ext i
+      let 0 := i
+      rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:79]: The API for simplicial sets should be expanded to include concrete formulations of the simplicial relations, like
```lean
@[simp]
lemma SSet.δ_comp_σ_self_apply (S : SSet) {n} (i : Fin (n + 1)) (x : S _[n]) :
    S.δ i.castSucc (S.σ i x) = x :=
  congr_fun S.δ_comp_σ_self x
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 5]
```diff
@@ -0,0 +1,469 @@
...
+        exact congrArg (F.app _) f.2.2
+    map_id := fun X => by
+      change ({..} : Subtype _) = {..}
+      congr
+      change _ = (F.app _ ≫ _) _
+      rw [← F.naturality]
+      rfl
+  }
+  map_id X := by rfl
+  map_comp f g := by rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:102]: Automation should take care of this:
```suggestion
```
If any case, adding a lemma like this would facilitate automation:
```lean
@[ext]
lemma hom_ext {S : SSet} {x y : SSet.OneTruncation S} {f g : x ⟶ y}
    (h : f.1 = g.1) : f = g := by
  cases f; cases g; subst h; rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 6]
```diff
@@ -0,0 +1,469 @@
...
+def SSet.OneTruncation.src {S : SSet} (f : S _[1]) : OneTruncation S :=
+  S.map (SimplexCategory.δ (n := 0) 1).op f
+
+/-- The target vertex of `f : S _[1]` for use in defining the underlying refl quiver.-/
+def SSet.OneTruncation.tgt {S : SSet} (f : S _[1]) : OneTruncation S :=
+  S.map (SimplexCategory.δ (n := 0) 0).op f
+
+/-- The hom-types of the refl quiver underlying a simplicial set `S` are subtypes of `S _[1]`.-/
+def SSet.OneTruncation.Hom {S : SSet} (X Y : OneTruncation S) :=
+  {p : S _[1] // src p = X ∧ tgt p = Y}
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:68]: It may be advisable to introduce a structure:
```lean
structure SSet.OneTruncation.Hom {S : SSet} (X Y : S _[0]) :=
  arrow : S _[1]
  src : src arrow = X := by aesop_cat
  tgt : tgt arrow = Y := by aesop_cat
```
Then, you may try to setup automation so that in most definitions, `src` and `tgt` are filled automatically.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:60]: Using `S.δ` systematically in this file should improve readibility.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 4 above)
Comment (joelriou) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:79]: (This could go in a separate PR.)

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 7]
```diff
@@ -0,0 +1,469 @@
...
+
+/-- The refl prefunctor from the refl quiver underlying a nerve to the refl quiver underlying a
+category.-/
+def SSet.OneTruncation.ofNerve.hom : OneTruncation (nerve C) ⥤rq C where
+  obj := (·.left)
+  map := OneTruncation.ofNerve.map
+  map_id := fun X : ComposableArrows _ 0 => by
+    simp only [SimplexCategory.len_mk, map, nerve_obj, eqToHom_refl, comp_id, id_comp,
+      ReflQuiver.id_eq_id]
+    exact ComposableArrows.map'_self _ 0
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:127]:
```suggestion
  map_id X := by
    obtain ⟨x, rfl⟩ := X.mk₀_surjective
    simp [map, ReflQuiver.id]
 ```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 8]
```diff
@@ -0,0 +1,469 @@
...
+def SSet.OneTruncation.ofNerve.inv : C ⥤rq OneTruncation (nerve C) where
+  obj := (.mk₀ ·)
+  map := fun f => by
+    refine ⟨.mk₁ f, ?_⟩
+    constructor <;> apply ComposableArrows.ext <;>
+      simp [SimplexCategory.len] <;> (exact fun 0 ↦ rfl)
+  map_id := fun X : C => Subtype.ext <| by
+    simp; apply ComposableArrows.ext <;> simp
+    · rintro _ rfl; simp; rfl
+    · intro; split <;> rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:140]: If the `ext` attribute of suitable lemmas is activated, I think that these proofs could become completely automatic (`by aesop_cat`):
```suggestion
  map := fun f => by
    refine ⟨.mk₁ f, ?_⟩
    constructor <;> apply ComposableArrows.ext₀ <;> simp <;> rfl
  map_id := fun X : C => Subtype.ext <| by
    apply ComposableArrows.ext₁ <;> simp <;> rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 9]
```diff
@@ -0,0 +1,469 @@
...
+    refine ⟨S.map (SSet.σ₂ (n := 0) 0).op X, ?_, ?_⟩ <;>
+    · change (S.map _ ≫ S.map _) X = X
+      rw [← map_comp]
+      rw [(_ : _ ≫ _ = 𝟙 _)]; simp
+      show ({..} : Opposite _) = _; congr; dsimp [SimplexCategory.Truncated]; ext ⟨i, _⟩
+      let 0 := i
+      rfl
+
+/-- The functor that carries a 2-truncated simplicial set to its underlying refl quiver.-/
+def SSet.oneTruncation₂ : SSet.Truncated.{u} 2 ⥤ ReflQuiv.{u,u} where
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:323]: It would be really nice to avoid duplication of code here. The only solution I see is to define the reflexive quiver and relations only in the case of a `S : SSet.truncated 2` and then, when we want to apply the construction to fully fledged simplicial sets, we just apply the truncation first. This may require developing the basic API of simplicial relations suggested above for the truncated simplicial objects/simplicial sets as well.

File: Mathlib/CategoryTheory/Quotient.lean [hunk 10]
```diff
@@ -28,6 +28,11 @@ instance (C) [Quiver C] : Inhabited (HomRel C) where
 
 namespace CategoryTheory
 
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:31]:
```suggestion
```

File: Mathlib/CategoryTheory/Quotient.lean [hunk 11]
```diff
@@ -28,6 +28,11 @@ instance (C) [Quiver C] : Inhabited (HomRel C) where
...
+/-- A functor induces a `HomRel` on its domain, relating those maps that have the same image. -/
+def Functor.homRel {C D : Type*} [Category C] [Category D] (F : C ⥤ D) : HomRel C :=
+  fun _ _ f g ↦ F.map f = F.map g
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:34]: Adding an `_iff` lemma should facilitate automation:
```suggestion
section

variable {C D : Type*} [Category C] [Category D] (F : C ⥤ D) 

/-- A functor induces a `HomRel` on its domain, relating those maps that have the same image. -/
def Functor.homRel : HomRel C :=
  fun _ _ f g ↦ F.map f = F.map g

@[simp]
lemma Functor.homRel_iff {X Y : C} (f g : X ⟶ Y) :
    F.homRel f g ↔ F.map f = F.map g := Iff.rfl

end
```

File: Mathlib/CategoryTheory/Quotient.lean [hunk 12]
```diff
@@ -40,6 +45,25 @@ class Congruence : Prop where
   /-- Postcomposition with an arrow respects `r`. -/
   compRight : ∀ {X Y Z} {f f' : X ⟶ Y} (g : Y ⟶ Z), r f f' → r (f ≫ g) (f' ≫ g)
 
+/-- For `F : C ⥤ D`, `F.homRel` is a congruence.-/
+theorem Functor.homRelCongruence {C D : Type*} [Category C] [Category D] (F : C ⥤ D) :
+    Congruence (F.homRel) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:50]: This should be an instance:
```suggestion
instance Functor.congruence_homRel {C D : Type*} [Category C] [Category D] (F : C ⥤ D) :
    Congruence F.homRel where
```

File: Mathlib/CategoryTheory/Quotient.lean [hunk 13]
```diff
@@ -40,6 +45,25 @@ class Congruence : Prop where
...
+      symm := by aesop
+      trans := by aesop
+    }
+  compLeft f g g' := by
+    unfold homRel
+    aesop
+  compRight := by
+    intro _ _ _ f f' g
+    unfold homRel
+    aesop
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:65]: The `iff` lemma above makes this work:
```suggestion
  equivalence :=
    { refl := fun _ ↦ rfl
      symm := by aesop
      trans := by aesop }
  compLeft := by aesop
  compRight := by aesop
```

File: Mathlib/CategoryTheory/Quotient.lean [hunk 14]
```diff
@@ -140,6 +164,35 @@ theorem functor_map_eq_iff [h : Congruence r] {X Y : C} (f f' : X ⟶ Y) :
...
+    rw [← this]
+    apply Relation.EqvGen.mono
+    intro f g rel
+    induction rel
+    unfold Functor.homRel
+    apply (Functor.homRelCongruence (functor r)).compLeft
+    apply (Functor.homRelCongruence (functor r)).compRight
+    unfold Functor.homRel
+    apply Quotient.sound
+    assumption
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:184]: There is a more direct proof. This is almost by definition of quotients:
```suggestion
theorem functor_homRel_eq_compClosure_eqvGen {X Y : C} (f g : X ⟶ Y) :
    (functor r).homRel f g ↔ Relation.EqvGen (@CompClosure C _ r X Y) f g :=
  Quot.eq
```

File: Mathlib/CategoryTheory/Quotient.lean [hunk 15]
```diff
@@ -140,6 +164,35 @@ theorem functor_map_eq_iff [h : Congruence r] {X Y : C} (f f' : X ⟶ Y) :
...
+
+theorem compClosure.congruence :
+    Congruence fun X Y => Relation.EqvGen (@CompClosure C _ r X Y) := by
+  have : (fun X Y => Relation.EqvGen (@CompClosure C _ r X Y)) =
+    (fun X Y => @Functor.homRel _ _ _ _ (functor r) X Y) := by
+    funext
+    ext
+    exact Iff.symm (functorHomRel_eq_compClosureEqvGen r _ _)
+  rw [this]
+  exact Functor.homRelCongruence (functor r)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Quotient.lean:194]:
```suggestion
  convert inferInstanceAs (Congruence (functor r).homRel)
  ext
  rw [functor_homRel_eq_compClosure_eqvGen]
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 6 above)
Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:66]: Unfortunately, this doesn't work, it breaks the proof by refl that the OneTruncation and OneTruncation₂ definitions are equivalent.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 9 above)
Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:313]: We think it would be better not to deal with this in this PR, but rather wait until we have some usage code before attempting such a refactor, because `OneTruncation` is not an opaque definition and we would prefer for users not to have to deal with the 2-truncation layer when they don't explicitly need it. Refactoring now could be making things harder elsewhere in code that does not exist yet.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 4 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean]: Done except for the two naturality statements, which I forgot about, and added here.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 16]
```diff
@@ -0,0 +1,456 @@
...
+      rfl
+  }
+
+@[ext] lemma hom_ext {S : SSet} {x y : SSet.OneTruncation S} {f g : x ⟶ y} :
+    f.1 = g.1 → f = g := Subtype.ext
+
+section
+variable {C : Type u} [Category.{v} C]
+
+theorem opstuff.{w} (V : Cᵒᵖ ⥤ Type w) {X Y Z : C} {α : X ⟶ Y} {β : Y ⟶ Z} {γ : X ⟶ Z} {φ} :
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:100]: Is this name intended to stay? Or is this WIP?

**Review by jcommelin — COMMENTED** [review]
I think the new file can be wrapped in a `namespace SSet`.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 16 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:100]: @digama0 what should this have been called?

**Comment by emilyriehl** [comment]
> I think the new file can be wrapped in a `namespace SSet`.

@jcommelin to clarify, you were suggesting moving `HoFunctor.lean` out of the `CategoryTheory` namespace and into the `SSet` namespace?

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 16 above)
Comment (digama0) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:100]: I think it should be a `private lemma`. Perhaps `map_map_of_eq`?

**Comment by jcommelin** [comment]
Sorry for being unclear. What I had in mind was to nest the namespaces:
```
namespace CategoryTheory
namespace SSet

...
```
because almost all the names start with `SSet.` already.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 16 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:100]: Done.

**Comment by joelriou** [comment]
I would still insist that there is no reason to duplicate the construction. Before taking the quotient category, the two constructions are defeq. `HoRel₂` and `HoRel` (for the truncation) are obviously not defeq because there are separate types, but it would a very small effort to define `HoRel` in terms of `HoRel₂`.
What I suggest is define first the homotopy category for `2`-truncated simplicial sets. Define the homotopy category of a simplicial set by applying the previous construction to `(SimplexCategory.Truncated.inclusion 2).op ⋙ X`. Then, you may provide a nice helper API for the second construction if you want to hide the internals.
Please note that the truncation has good definitional properties.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 17]
```diff
@@ -0,0 +1,343 @@
...
+def OneTruncation₂.src {S : SSet.Truncated 2} (f : S _[1]₂) : OneTruncation₂ S :=
+  S.map (δ₂ (n := 0) 1).op f
+
+/-- The target vertex of `f : S _[1]₂` for use in defining the underlying refl quiver. -/
+def OneTruncation₂.tgt {S : SSet.Truncated 2} (f : S _[1]₂) : OneTruncation₂ S :=
+  S.map (δ₂ (n := 0) 0).op f
+
+/-- The hom-types of the refl quiver underlying a simplicial set `S` are subtypes of `S _[1]₂`. -/
+def OneTruncation₂.Hom {S : SSet.Truncated 2} (X Y : OneTruncation₂ S) :=
+  {p : S _[1]₂ // src p = X ∧ tgt p = Y}
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:76]: I would recommend introducing a structure:
```suggestion
structure OneTruncation₂.Hom {S : SSet.Truncated 2} (X Y : OneTruncation₂ S) where
  edge : S _[1]₂
  src_eq : S.map (δ₂ 1).op edge = X
  tgt_eq : S.map (δ₂ 0).op edge = Y
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 18]
```diff
@@ -0,0 +1,343 @@
...
+def OneTruncation₂ (S : SSet.Truncated 2) := S _[0]₂
+
+/-- Abbreviations for face maps in the 2-truncated simplex category. -/
+abbrev δ₂ {n} (i : Fin (n + 2)) (hn := by decide) (hn' := by decide) :
+    (⟨[n], hn⟩ : SimplexCategory.Truncated 2) ⟶ ⟨[n + 1], hn'⟩ := SimplexCategory.δ i
+
+/-- Abbreviations for degeneracy maps in the 2-truncated simplex category. -/
+abbrev σ₂ {n} (i : Fin (n + 1)) (hn := by decide) (hn' := by decide) :
+    (⟨[n+1], hn⟩ : SimplexCategory.Truncated 2) ⟶ ⟨[n], hn'⟩ := SimplexCategory.σ i
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:65]: You may introduce a few lemmas like:
```lean
@[reassoc (attr := simp)]
lemma δ₂_one_comp_σ₂_zero : δ₂ (1 : Fin 2) ≫ σ₂ 0 = 𝟙 _ := SimplexCategory.δ_comp_σ_succ
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 19]
```diff
@@ -0,0 +1,343 @@
...
+def ev01₂ {V : SSet.Truncated 2} (φ : V _[2]₂) : ev0₂ φ ⟶ ev1₂ φ :=
+  ⟨V.map δ2₂.op φ, map_map_of_eq V (SimplexCategory.δ_comp_δ (j := 1) le_rfl), map_map_of_eq V rfl⟩
+
+end Truncated
+open Truncated
+
+/-- The 2-simplices in a 2-truncated simplicial set `V` generate a hom relation on the free
+category on the underlying refl quiver of `V`. -/
+inductive HoRel₂ {V : SSet.Truncated 2} :
+    (X Y : Cat.freeRefl.obj (ReflQuiv.of (OneTruncation₂ V))) → (f g : X ⟶ Y) → Prop
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:257]: It seems there is some unnecessary complication here:
```suggestion
inductive HoRel₂ {V : SSet.Truncated 2} :
    (X Y : Cat.FreeRefl (OneTruncation₂ V)) → (f g : X ⟶ Y) → Prop
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 20]
```diff
@@ -0,0 +1,343 @@
...
+  | mk (φ : V _[2]₂) :
+    HoRel₂ _ _
+      (Quot.mk _ (.cons .nil (ev02₂ φ)))
+      (Quot.mk _ (.cons (.cons .nil (ev01₂ φ)) (ev12₂ φ)))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:261]: I think it would be better not to use `.nil`, but the `Quiver.Hom.toPath` API:
```suggestion
    HoRel₂ _ _
      (Quot.mk _ (Quiver.Hom.toPath (ev02₂ φ)))
      (Quot.mk _ ((Quiver.Hom.toPath (ev01₂ φ)).comp
        (Quiver.Hom.toPath (ev12₂ φ))))
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 18 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:65]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 21]
```diff
@@ -0,0 +1,350 @@
...
+instance (S : SSet.Truncated 2) : ReflQuiver (OneTruncation₂ S) where
+  Hom X Y := SSet.OneTruncation₂.Hom X Y
+  id X := by
+    refine ⟨S.map (SSet.σ₂ (n := 0) 0).op X, ?_, ?_⟩ <;>
+    · change (S.map _ ≫ S.map _) X = X
+      rw [← map_comp]
+      rw [(_ : _ ≫ _ = 𝟙 _)]; simp
+      show ({..} : Opposite _) = _; congr; dsimp [SimplexCategory.Truncated]; ext ⟨i, _⟩
+      let 0 := i
+      rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:93]:
```suggestion
  id X :=
    { edge := S.map (SSet.σ₂ (n := 0) 0).op X
      src_eq := by
        simp only [← FunctorToTypes.map_comp_apply, ← op_comp, δ₂_one_comp_σ₂_zero,
          op_id, FunctorToTypes.map_id_apply]
      tgt_eq := by
        simp only [← FunctorToTypes.map_comp_apply, ← op_comp, δ₂_zero_comp_σ₂_zero,
          op_id, FunctorToTypes.map_id_apply] }
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 22]
```diff
@@ -0,0 +1,350 @@
...
+    map_id := fun X => by
+      apply OneTruncation₂.Hom.ext
+      dsimp only [SimplexCategory.len_mk, id_eq, ReflQuiv.of_val, Nat.reduceAdd, Fin.isValue,
+        types_comp_apply, eq_mpr_eq_cast]
+      change _ = (F.app _ ≫ _) _
+      rw [← F.naturality]
+      rfl
+  }
+  map_id X := by rfl
+  map_comp f g := by rfl
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:117]:
```suggestion
@[simp]
lemma OneTruncation₂.id_edge {S : SSet.Truncated 2} (X : OneTruncation₂ S) :
    OneTruncation₂.Hom.edge (𝟙rq X) = S.map (SSet.σ₂ 0).op X := rfl

/-- The functor that carries a 2-truncated simplicial set to its underlying refl quiver. -/
@[simps]
def oneTruncation₂ : SSet.Truncated.{u} 2 ⥤ ReflQuiv.{u, u} where
  obj S := ReflQuiv.of (OneTruncation₂ S)
  map {S T} F := {
    obj := F.app (op [0]₂)
    map := fun f ↦
      { edge := F.app _ f.edge
        src_eq := by rw [← FunctorToTypes.naturality, f.src_eq]
        tgt_eq := by rw [← FunctorToTypes.naturality, f.tgt_eq] }
    map_id := fun X ↦ OneTruncation₂.Hom.ext (by
      dsimp
      rw [← FunctorToTypes.naturality]) }
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 23]
```diff
@@ -0,0 +1,350 @@
...
+
+@[ext] lemma hom₂_ext {S : SSet.Truncated 2} {x y : OneTruncation₂ S} {f g : x ⟶ y} :
+    f.edge = g.edge → f = g := OneTruncation₂.Hom.ext
+
+section
+variable {C : Type u} [Category.{v} C]
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:118]: I suspect that some definitions below would be faciliated by this:
```suggestion
@[simps]
def OneTruncation₂.nerveEquiv :
    C ≃ OneTruncation₂ ((SSet.truncation 2).obj (nerve C)) where
  toFun X := .mk₀ X
  invFun X := X.obj' 0
  left_inv _ := rfl
  right_inv _ := ComposableArrows.ext₀ rfl

def OneTruncation₂.nerveHomEquiv {X Y : C} : (X ⟶ Y) ≃ (nerveEquiv X ⟶ nerveEquiv Y) where
  toFun f :=
    { edge := ComposableArrows.mk₁ f
      src_eq := ComposableArrows.ext₀ rfl
      tgt_eq := ComposableArrows.ext₀ rfl }
  invFun φ := eqToHom (congr_arg ComposableArrows.left φ.src_eq.symm) ≫ φ.edge.hom ≫
      eqToHom (congr_arg ComposableArrows.left φ.tgt_eq)
  left_inv f := by dsimp; simp only [comp_id, id_comp]; rfl
  right_inv φ := by
    ext
    exact ComposableArrows.ext₁ (congr_arg ComposableArrows.left φ.src_eq).symm
      (congr_arg ComposableArrows.left φ.tgt_eq).symm rfl
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean (hunk 22 above)
Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean]: Done.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 24]
```diff
@@ -0,0 +1,363 @@
...
+category on the underlying refl quiver of `V`. -/
+inductive HoRel₂ {V : SSet.Truncated 2} :
+    (X Y : Cat.FreeRefl (OneTruncation₂ V)) → (f g : X ⟶ Y) → Prop
+  | mk (φ : V _[2]₂) :
+    HoRel₂ _ _
+      (Quot.mk _ (Quiver.Hom.toPath (ev02₂ φ)))
+      (Quot.mk _ ((Quiver.Hom.toPath (ev01₂ φ)).comp
+        (Quiver.Hom.toPath (ev12₂ φ))))
+
+theorem HoRel₂.ext_triangle {V} (X X' Y Y' Z Z' : OneTruncation₂ V)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:283]: Instead of this lemma, I would think that the following may be more useful:
```lean
theorem HoRel₂.mk' {V : SSet.Truncated 2} (φ : V _[2]₂) {X₀ X₁ X₂ : OneTruncation₂ V}
    (f₀₁ : X₀ ⟶ X₁) (f₁₂ : X₁ ⟶ X₂) (f₀₂ : X₀ ⟶ X₂)
    (h₀₁ : f₀₁.edge = V.map (δ₂ 2).op φ) (h₁₂ : f₁₂.edge = V.map (δ₂ 0).op φ)
    (h₀₂ : f₀₂.edge = V.map (δ₂ 1).op φ) :
    HoRel₂ _ _ (Quot.mk _ (Quiver.Hom.toPath f₀₂))
      (Quot.mk _ ((Quiver.Hom.toPath f₀₁).comp (Quiver.Hom.toPath f₁₂))) := by
  obtain rfl : X₀ = ev0₂ φ := by
    rw [← f₀₁.src_eq, h₀₁, ← FunctorToTypes.map_comp_apply, ← op_comp]
    -- a change in the definition of `ι0₂` may facilitate this proof...
    dsimp [ev0₂, ι0₂]
    apply congr_fun
    rw [← op_comp]
    congr 2
    ext (i : Fin 1)
    fin_cases i
    rfl
  obtain rfl : X₁ = ev1₂ φ := by
    rw [← f₀₁.tgt_eq, h₀₁, ← FunctorToTypes.map_comp_apply, ← op_comp]
    rfl
  obtain rfl : X₂ = ev2₂ φ := by
    rw [← f₁₂.tgt_eq, h₁₂, ← FunctorToTypes.map_comp_apply, ← op_comp]
    rfl
  obtain rfl : f₀₁ = ev01₂ φ := by ext; assumption
  obtain rfl : f₁₂ = ev12₂ φ := by ext; assumption
  obtain rfl : f₀₂ = ev02₂ φ := by ext; assumption
  constructor
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 25]
```diff
@@ -0,0 +1,363 @@
...
+      ((Quotient.functor _).map (.cons .nil f'))
+      ((Quotient.functor _).map (.cons (.cons .nil g') h')) := by
+  cases hX
+  cases hY
+  cases hZ
+  congr! <;> apply OneTruncation₂.Hom.ext <;> assumption
+
+/-- The type underlying the homotopy category of a 2-truncated simplicial set `V`. -/
+def hoFunctor₂Obj (V : SSet.Truncated.{u} 2) : Type u :=
+  Quotient (C := Cat.freeRefl.obj (ReflQuiv.of (OneTruncation₂ V))) (HoRel₂ (V := V))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:301]: This allows the use of dot notation `V.homotopyCategory`:
```suggestion
def _root_.SSet.Truncated.homotopyCategory (V : SSet.Truncated.{u} 2) : Type u :=
  Quotient (HoRel₂ (V := V))
```
(An abbrev could be done in the `SSet` namespace so that we could also use `X.homotopyCategory` when `X : SSet`.)

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 26]
```diff
@@ -0,0 +1,363 @@
...
+
+instance (V : SSet.Truncated.{u} 2) : Category.{u} (SSet.hoFunctor₂Obj V) :=
+  inferInstanceAs (Category (Quotient ..))
+
+/-- A canonical functor from the free category on the refl quiver underlying a 2-truncated
+simplicial set `V` to its homotopy category. -/
+def hoFunctor₂Obj.quotientFunctor (V : SSet.Truncated.{u} 2) :
+    Cat.freeRefl.obj (ReflQuiv.of (OneTruncation₂ V)) ⥤ SSet.hoFunctor₂Obj V :=
+  Quotient.functor (C := Cat.freeRefl.obj (ReflQuiv.of (OneTruncation₂ V))) (HoRel₂ (V := V))
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:310]:
```suggestion
def _root_.SSet.Truncated.HomotopyCategory.quotientFunctor (V : SSet.Truncated.{u} 2) :
    Cat.FreeRefl (OneTruncation₂ V) ⥤ V.HomotopyCategory :=
  Quotient.functor _ 
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 27]
```diff
@@ -0,0 +1,363 @@
...
+      let .mk φ := hfg
+      apply Quotient.sound
+      convert HoRel₂.mk (F.app (op _) φ) using 0
+      apply HoRel₂.ext_triangle
+      · exact congrFun (F.naturality ι0₂.op) φ
+      · exact congrFun (F.naturality ι1₂.op) φ
+      · exact congrFun (F.naturality ι2₂.op) φ
+      · exact congrFun (F.naturality δ1₂.op) φ
+      · exact congrFun (F.naturality δ2₂.op) φ
+      · exact congrFun (F.naturality δ0₂.op) φ)
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:334]:
```suggestion
def SSet.Truncated.mapHomotopyCategory {V W : SSet.Truncated.{u} 2} (F : V ⟶ W) :
    V.HomotopyCategory ⥤ W.HomotopyCategory :=
  Quotient.lift _
    ((oneTruncation₂ ⋙ Cat.freeRefl).map F ⋙ SSet.Truncated.HomotopyCategory.quotientFunctor W)
    (by
      rintro _ _ _ _ ⟨φ⟩
      apply Quotient.sound
      apply HoRel₂.mk' (φ := F.app _ φ)
        (f₀₁ := (oneTruncation₂.map F).map (ev01₂ φ))
        (f₀₂ := (oneTruncation₂.map F).map (ev02₂ φ))
        (f₁₂ := (oneTruncation₂.map F).map (ev12₂ φ))
      all_goals
        apply FunctorToTypes.naturality)
```

Comment (emilyriehl) [reply Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean]: Done.

**Comment by emilyriehl** [comment]
Two comments for @joelriou:

1. For whatever reason I have to write `SSet.Truncated.HomotopyCategory.quotientFunctor V` even in the `SSet.Truncated` namespace. 
2. I'm not sure how much of this file should be in the `Truncated` namespace. Eg. right now `HoRel₂` is in the `Truncated` namespace while `OneTruncation₂` is not. I'm not sure either of these choices is correct.

**Comment by emilyriehl** [comment]
I may have figured out the issue: most of this file is actually in the `CategoryTheory.SSet.Truncated` namespace. Which further suggests I've made the namespaces all wrong.

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 28]
```diff
@@ -0,0 +1,382 @@
...
+a nerve. -/
+def OneTruncation₂.ofNerve₂.inv : C ⥤rq OneTruncation₂ (nerveFunctor₂.obj (Cat.of C)) where
+  obj := (.mk₀ ·)
+  map := fun f => by
+    refine ⟨.mk₁ f, ?_, ?_⟩ <;> apply ComposableArrows.ext₀ <;> simp <;> rfl
+  map_id _ := by ext; apply ComposableArrows.ext₁ <;> simp <;> rfl
+
+/-- The refl quiver underlying a nerve is isomorphic to the refl quiver underlying the category. -/
+def OneTruncation₂.ofNerve₂ (C : Type u) [Category.{u} C] :
+    ReflQuiv.of (OneTruncation₂ (nerveFunctor₂.obj (Cat.of C))) ≅ ReflQuiv.of C := by
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:177]: If would be good to have a constructor for isomorphisms in the category of quivers (resp. refl. quivers) which would take inputs like `nerveEquiv` and `nerveHomEquiv`.

**Comment by joelriou** [comment]
> I may have figured out the issue: most of this file is actually in the `CategoryTheory.SSet.Truncated` namespace. Which further suggests I've made the namespaces all wrong.

Yes, it should be `SSet.Truncated` rather than `CategoryTheory.SSet.Truncated`.

File: Mathlib/CategoryTheory/Category/Quiv.lean [hunk 29]
```diff
@@ -82,6 +82,38 @@ end Cat
 
 namespace Quiv
 
+def isoOfEquiv {V W : Type u } [Quiver.{v + 1, u} V] [Quiver.{v + 1, u} W]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/Quiv.lean:85]: I believe it would much more convenient to develop a suitable API (kind of similar to `eqToHom`) for quivers:
```lean
section

variable {V : Type*} [Quiver V]

def _root_.Quiver.homOfEq {X Y : V} (f : X ⟶ Y) {X' Y' : V}
    (hX : X = X') (hY : Y = Y') : X' ⟶ Y' := by
  subst hX hY
  exact f

@[simp]
lemma _root_.Quiver.homOfEq_trans
    {X Y : V} (f : X ⟶ Y) {X' Y' : V} (hX : X = X') (hY : Y = Y')
    {X'' Y'' : V} (hX' : X' = X'') (hY' : Y' = Y'') :
    Quiver.homOfEq (Quiver.homOfEq f hX hY) hX' hY' =
      Quiver.homOfEq f (hX.trans hX') (hY.trans hY') := by
  subst hX hY hX' hY'
  rfl

lemma _root_.Quiver.homOfEq_injective {X X' Y Y' : V} (hX : X = X') (hY : Y = Y')
    {f g : X ⟶ Y} (h : Quiver.homOfEq f hX hY = Quiver.homOfEq g hX hY) : f = g := by
  subst hX hY
  exact h

@[simp]
lemma _root_.Quiver.homOfEq_rfl {X Y : V} (f : X ⟶ Y) :
    Quiver.homOfEq f rfl rfl = f := rfl

end

-- this lemma may replace `Prefunctor.ext`
theorem _root_.Prefunctor.ext' {V W : Type u} [Quiver V] [Quiver W] {F G : Prefunctor V W}
    (h_obj : ∀ X, F.obj X = G.obj X)
    (h_map : ∀ (X Y : V) (f : X ⟶ Y),
      F.map f = Quiver.homOfEq (G.map f) (h_obj _).symm (h_obj _).symm) : F = G := by
  obtain ⟨Fobj, Fmap⟩ := F
  obtain ⟨Gobj, Gmap⟩ := G
  obtain rfl : Fobj = Gobj := funext h_obj
  simp only [Prefunctor.mk.injEq, heq_eq_eq, true_and]
  ext X Y f
  simpa only [Quiver.homOfEq_rfl] using h_map X Y f
```
Then, `isoOfEquiv` becomes:
```lean
namespace Quiv

section
variable {V W : Type u } [Quiver V] [Quiver W]
  (e : V ≃ W) (he : ∀ X Y : V, (X ⟶ Y) ≃ (e X ⟶ e Y))

include he in
@[simp]
lemma homOfEq_map_homOfEq {X Y : V} (f : X ⟶ Y) {X' Y' : V} (hX : X = X') (hY : Y = Y')
    {X'' Y'' : W} (hX' : e X' = X'') (hY' : e Y' = Y'') :
    Quiver.homOfEq (he _ _ (Quiver.homOfEq f hX hY)) hX' hY' =
      Quiver.homOfEq (he _ _ f) (by rw [hX, hX']) (by rw [hY, hY']) := by
  subst hX hY hX' hY'
  rfl

def isoOfEquiv : Quiv.of V ≅ Quiv.of W where
      hom := Prefunctor.mk e (he _ _)
      inv :=
        { obj := e.symm
          map {X Y} f := (he _ _).symm (Quiver.homOfEq f (by simp) (by simp)) }
      hom_inv_id := Prefunctor.ext' e.left_inv (fun X Y f ↦ by
        dsimp [Quiv.id_eq_id, Quiv.comp_eq_comp]
        apply (he _ _).injective
        apply Quiver.homOfEq_injective (X' := e X) (Y' := e Y) (by simp) (by simp)
        simp)
      inv_hom_id := Prefunctor.ext' e.right_inv (by simp [Quiv.id_eq_id, Quiv.comp_eq_comp])

end
```

**Comment by emilyriehl** [comment]
@joelriou the current version adds the constructions of isomorphisms in `Quiv` and `ReflQuiv` as requested. 

Then the `HomotopyCat` file contains two versions of `OneTruncation₂.ofNerve₂.natIso` for comparison. The first version, starting line 119, is the one that uses the new infrastructure. Note, however, it causes a universe error I wasn't able to fix (though perhaps @digama0 can figure this out). The old version follows starting at line 184. Note I turned around the direction of the initial equivalence, we seemed to help, marginally.

File: Mathlib/CategoryTheory/Category/ReflQuiv.lean [hunk 30]
```diff
@@ -75,6 +75,50 @@ theorem forgetToQuiv.Faithful : Functor.Faithful (forgetToQuiv) where
...
+    apply forgetToQuiv_faithful
+    simp only [Functor.map_comp]
+    simp only [forgetToQuiv_obj, of_val, forgetToQuiv_map, Iso.hom_inv_id]
+    rfl
+  inv_hom_id := by
+    apply forgetToQuiv_faithful
+    simp only [Functor.map_comp]
+    simp only [forgetToQuiv_obj, of_val, forgetToQuiv_map, Iso.hom_inv_id]
+    rw [e.inv_hom_id]
+    rfl
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ReflQuiv.lean:109]:
```suggestion
  hom_inv_id := by
    apply forgetToQuiv.map_injective
    exact e.hom_inv_id
  inv_hom_id := by
    apply forgetToQuiv.map_injective
    exact e.inv_hom_id
```

Above `forgetToQuiv.Faithful` should be made an instance.

File: Mathlib/Combinatorics/Quiver/Prefunctor.lean [hunk 31]
```diff
@@ -88,4 +100,20 @@ theorem congr_map {U V : Type*} [Quiver U] [Quiver V] (F : U ⥤q V) {X Y : U} {
...
+    F.obj X = G.obj X := by cases e; rfl
+
+/-- An equality of prefunctors gives an equality on homs. -/
+theorem congr_hom {U V : Type*} [Quiver U] [Quiver V] {F G : U ⥤q V} (e : F = G) {X Y : U}
+    (f : X ⟶ Y) : Quiver.homOfEq (F.map f) (congr_obj e X) (congr_obj e Y) = G.map f := by
+  subst e
+  simp
+
+/-- Prefunctors commute with `homOfEq`. -/
+theorem homOfEq_map {U V : Type*} [Quiver U] [Quiver V] (F : U ⥤q V) {X Y : U} (f : X ⟶ Y)
```
Comment (joelriou) [inline Mathlib/Combinatorics/Quiver/Prefunctor.lean:114]:
```suggestion
@[simp]
theorem homOfEq_map {U V : Type*} [Quiver U] [Quiver V] (F : U ⥤q V) {X Y : U} (f : X ⟶ Y)
```

File: Mathlib/CategoryTheory/Category/ReflQuiv.lean [hunk 32]
```diff
@@ -75,6 +75,50 @@ theorem forgetToQuiv.Faithful : Functor.Faithful (forgetToQuiv) where
...
+      Prefunctor.congr_hom e.hom_inv_id (ReflQuiver.id (obj := V) (e.inv.obj Y))
+    simp only [Prefunctor.id_obj, Prefunctor.id_map] at this
+    rw [congrArg e.inv.map (h_id (e.inv.obj Y))] at this
+    rw [← this]
+    have hY : e.hom.obj (e.inv.obj Y) = Y := by
+      rw [← Prefunctor.comp_obj]
+      show (e.inv ≫ e.hom).obj _ = _
+      rw [e.inv_hom_id, Quiv.id_eq_id, Prefunctor.id_obj]
+    rw [← Prefunctor.homOfEq_map _ _ hY hY]
+    simp only [of_val, ReflQuiver.homOfEq_id]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ReflQuiv.lean:98]: After adding some API for isomorphisms in `Quiv`:
```lean
namespace Quiv

variable {V W : Quiv} (e : V ≅ W)

@[simps]
def equivOfIso : V ≃ W where
  toFun := e.hom.obj
  invFun := e.inv.obj
  left_inv := Prefunctor.congr_obj e.hom_inv_id
  right_inv := Prefunctor.congr_obj e.inv_hom_id

@[simp]
lemma inv_obj_hom_obj_of_iso (X : V) :
    e.inv.obj (e.hom.obj X) = X :=
  (equivOfIso e).left_inv X

@[simp]
lemma hom_obj_inv_obj_of_iso (Y : W) :
    e.hom.obj (e.inv.obj Y) = Y :=
  (equivOfIso e).right_inv Y

lemma hom_map_inv_map_of_iso {V W : Quiv} (e : V ≅ W) {X Y : W} (f : X ⟶ Y) :
    e.hom.map (e.inv.map f) =
      Quiver.homOfEq f (by simp) (by simp) := by
  rw [← Prefunctor.comp_map]
  exact (Prefunctor.congr_hom e.inv_hom_id.symm f).symm

lemma inv_map_hom_map_of_iso {V W : Quiv} (e : V ≅ W) {X Y : V} (f : X ⟶ Y) :
    e.inv.map (e.hom.map f) =
      Quiver.homOfEq f (by simp) (by simp) :=
  hom_map_inv_map_of_iso e.symm f

@[simps]
def homEquivOfIso {V W : Quiv} (e : V ≅ W) {X Y : V} :
    (X ⟶ Y) ≃ (e.hom.obj X ⟶ e.hom.obj Y) where
  toFun f := e.hom.map f
  invFun g := Quiver.homOfEq (e.inv.map g) (by simp) (by simp)
  left_inv f := by simp [inv_map_hom_map_of_iso]
  right_inv g := by simp [hom_map_inv_map_of_iso]

end Quiv
```
The proof here becomes:
```suggestion
def isoOfQuivIso {V W : Type u} [ReflQuiver.{v + 1} V] [ReflQuiver.{v + 1} W]
    (e : Quiv.of V ≅ Quiv.of W)
    (h_id : ∀ (X : V), e.hom.map (𝟙rq X) = ReflQuiver.id (obj := W) (e.hom.obj X)) :
    ReflQuiv.of V ≅ ReflQuiv.of W where
  hom := ReflPrefunctor.mk e.hom h_id
  inv := ReflPrefunctor.mk e.inv
    (fun Y ↦ (Quiv.homEquivOfIso e).injective
      (by simp [Quiv.hom_map_inv_map_of_iso, h_id]))
```

Comment (emilyriehl) [reply Mathlib/CategoryTheory/Category/ReflQuiv.lean]: Thanks, implemented.

File: Mathlib/CategoryTheory/Category/ReflQuiv.lean [hunk 33]
```diff
@@ -70,11 +70,37 @@ theorem forgetToQuiv_faithful {V W : ReflQuiv} (F G : V ⥤rq W)
...
+
+section
+variable {V W : Type u } [ReflQuiver V] [ReflQuiver W]
+  (e : V ≃ W) (he : ∀ (X Y : V), (X ⟶ Y) ≃ (e X ⟶ e Y))
+
+/-- Compatible equivalences of types and hom-types induce an isomorphism of quivers. -/
+def isoOfEquiv (h_id : ∀ (X : V), he _ _ (𝟙rq X) = ReflQuiver.id (obj := W) (e X)) :
+    ReflQuiv.of V ≅ ReflQuiv.of W := isoOfQuivIso (Quiv.isoOfEquiv e he) h_id
+
+end
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ReflQuiv.lean:102]: As there is only one declaration here, the variables should appear as `def isoOfEquiv {V W...`

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 34]
```diff
@@ -0,0 +1,345 @@
...
+
+is defined by first restricting from simplicial sets to 2-truncated simplicial sets (throwing away
+the data that is not used for the construction of the homotopy category) and then composing with an
+analogously defined `SSet.hoFunctor₂ : SSet.Truncated.{u} 2 ⥤ Cat.{u,u}` implemented relative to
+the syntax of the 2-truncated simplex category.
+
+The functor `SSet.hoFunctor` is shown to be left adjoint to the nerve by providing an analogous
+decomposition of the nerve functor, made by possible by the fact that nerves of categories are
+2-coskeletal, and then composing a pair of adjunctions, which factor through the category of
+2-truncated simplicial sets.
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:33]: This part is not in this PR, so that you could add "TODO".

File: Mathlib/CategoryTheory/Category/ReflQuiv.lean [hunk 35]
```diff
@@ -70,11 +70,33 @@ theorem forgetToQuiv_faithful {V W : ReflQuiv} (F G : V ⥤rq W)
     (hyp : forgetToQuiv.map F = forgetToQuiv.map G) : F = G := by
   cases F; cases G; cases hyp; rfl
 
-theorem forgetToQuiv.Faithful : Functor.Faithful (forgetToQuiv) where
+instance forgetToQuiv.Faithful : Functor.Faithful (forgetToQuiv) where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Category/ReflQuiv.lean:73]:
```suggestion
instance forgetToQuiv.Faithful : Functor.Faithful forgetToQuiv where
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 36]
```diff
@@ -0,0 +1,345 @@
...
+
+section
+
+local macro:1000 (priority := high) X:term " _[" n:term "]₂" : term =>
+    `(($X : SSet.Truncated 2).obj (Opposite.op ⟨SimplexCategory.mk $n, by decide⟩))
+
+-- FIXME why doesn't this work?
+-- local notation3:1000 (priority := high) (prettyPrint := false) " _[" n "]₂" =>
+--     (X : SSet.Truncated 2).obj (Opposite.op ⟨SimplexCategory.mk n, by decide⟩)
+
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:48]:
```suggestion
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 37]
```diff
@@ -0,0 +1,345 @@
...
+    map := fun f ↦
+      { edge := F.app _ f.edge
+        src_eq := by rw [← FunctorToTypes.naturality, f.src_eq]
+        tgt_eq := by rw [← FunctorToTypes.naturality, f.tgt_eq] }
+    map_id := fun X ↦ OneTruncation₂.Hom.ext (by
+      dsimp
+      rw [← FunctorToTypes.naturality]) }
+
+@[ext]
+lemma OneTruncation₂.Hom_ext {S : SSet.Truncated 2} {x y : OneTruncation₂ S} {f g : x ⟶ y} :
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:113]:
```suggestion
lemma OneTruncation₂.hom_ext {S : SSet.Truncated 2} {x y : OneTruncation₂ S} {f g : x ⟶ y} :
```

File: Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean [hunk 38]
```diff
@@ -0,0 +1,345 @@
...
+  show X.map (𝟙 _) = _
+  rw [X.map_id]
+  rfl
+
+/-- The refl quiver underlying a nerve is naturally isomorphic to the refl quiver underlying the
+category. -/
+@[simps! hom_app_obj hom_app_map inv_app_obj_obj inv_app_obj_map inv_app_map]
+def OneTruncation₂.ofNerve₂.natIso :
+    nerveFunctor₂.{u,u} ⋙ SSet.oneTruncation₂ ≅ ReflQuiv.forget := by
+  refine NatIso.ofComponents (fun C => OneTruncation₂.ofNerve₂ C) ?nat
```
Comment (joelriou) [inline Mathlib/AlgebraicTopology/SimplicialSet/HomotopyCat.lean:167]: I think we may avoid `by refine...` here and just use `NatIso.ofComponents ... (by ....)`.

**Comment by joelriou** [comment]
After these small modifications, I think the PR will be mostly ready to go!

**Comment by emilyriehl** [comment]
Thanks @joelriou. I really appreciate all your efforts and am sorry this has proven so painful to review! (I'm working now on the final PR in this series to work around the defs I know you won't like...)

**Comment by joelriou** [comment]
Thanks!

bors merge

**Comment by joelriou** [comment]
Could you merge with master and try to fix the build?

**Comment by joelriou** [comment]
bors d-

**Comment by emilyriehl** [comment]
Sorry about that. I don't understand what happened. But it should be fixed now.

**Comment by joelriou** [comment]
bors merge
